US07163937B2
Preparation D6, Step 3. A suspension of 6-(2-methoxyphenyl)quinazolin-4-ol (250 mg, 0.99 mmol) in POCl3 (10 mL) was heated at reflux for 1 h, during which time a clear solution was observed. The mixture was cooled to room temperature, concentrated in-vacuo, then concentrated from methylene chloride (3×100 mL) to remove any remaining POCl3. The residue was partitioned between ethyl acetate (25 mL) and saturated NaHCO3 (30 mL), and the mixture was stirred until gas evolution ceased (10 min). The layers were separated, the organic phase was washed with saturated NaHCO3, water, and brine, dried over sodium sulfate, and concentrated in-vacuo. The residue was purified over silica gel, eluting with 1:3 ethyl acetate/heptane, to yield 217 mg of 4-chloro-6-(2-methoxyphenyl)quinazoline as a white solid. 1H NMR (500 MHz, CDCl3) δ ppm 9.03 (s, 1H), 8.36 (s, 1H), 8.19 (d, J=7.15 Hz, 1H), 8.10 (d, J=8.80 Hz, 1H), 7.42 (m, 2H), 7.10 (t, J=7.42 Hz, 1H), 7.04 (d, J=8.25 Hz, 1H), 3.86 (m, 3H).

reactant | 6-(2-methoxyphenyl)quinazolin-4-ol | 0.99 mmol, 250 mg | COC1=C(C=CC=C1)C=1C=C2C(=NC=NC2=CC1)O | C15H12N2O2
reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-(2-methoxyphenyl)quinazoline | 217 mg | ClC1=NC=NC2=CC=C(C=C12)C1=C(C=CC=C1)OC | C15H11ClN2O
